US04472305
Condensation of BocProOH (4.30 g.) and HMePheOMe (2.74 g.) by the mixed anhydride method using diphenylphosphinyl chloride gave BocPro-MePheOMe in 77% yield. Demethylation of BocPro-MePheOMe (3.0 g.) using aqueous sodium hydroxide gave BocPro-MePheOH in 83% yield. Condensation of BocPro-MePheOH (1.71 g.) and HPheOBz (2.14 g.) using dicyclohexylcarbodiimide and N-hydroxysuccinimide gave BocPro-MePhe-PheOBz in 76% yield. Debenzylation of BocPro-MePhe-PheOBz (2.0 g.) by hydrogenation with palladium catalyst gave BocPro-MePhe-PheOH in 100% yield.

reactant | BocPro-MePheOMe | 3.0 g | N1([C@H](C(=O)N([C@@H](CC2=CC=CC=C2)C(=O)OC)C)CCC1)C(=O)OC(C)(C)C | C21H30N2O5
reactant | sodium hydroxide | [OH-].[Na+]
product | BocPro-MePheOH | 83% yield | N1([C@H](C(=O)N([C@@H](CC2=CC=CC=C2)C(=O)O)C)CCC1)C(=O)OC(C)(C)C | C20H28N2O5
